US04032676
N-(5-carboxy-2,3,4,5-tetrahydroxy-pentyl)-L-(+)-citrulline
The product was made from D-glucuronic acid and L-(+)-citrulline using Raney nickel as a catalyst under the conditions of the above example. A brownish, highly viscous oil was obtained.

reactant | D-glucuronic acid | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)C(=O)O | C6H10O7
reactant | L-(+)-citrulline | N[C@@H](CCCNC(=O)N)C(=O)O | C6H13N3O3
catalyst | Raney nickel | [Ni] | Ni
product | N-(5-carboxy-2,3,4,5-tetrahydroxy-pentyl)-L-(+)-citrulline | C(=O)(O)C(C(C(C(CN[C@@H](CCCNC(=O)N)C(=O)O)O)O)O)O | C12H23N3O9
